US07709645B2
2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester was dissolved in tetrahydrofuran. 1 M sodium hydroxide in methanol was added to the mixture, and the reaction was stirred for 2 h at room temperature until complete conversion was confirmed by HPLC-MS. Saturated aqueous sodium bicarbonate solution was added and the mixture extracted with dichloromethane. The organic layer was dried over sodium sulfate and concentrated. The crude material was purified by preparative HPLC to give 2-amino-5-[3-(2-ethyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide. 1H-NMR (250 MHz, d6-DMSO) δ 12.12 (s, 1H), 8.51 (d, J=2.0 Hz, 1H), 7.97 (d, J=2.3 Hz, 1H), 7.76 (d, J=2.3 Hz, 1H), 7.55 (s, 1H), 7.47 (d, J=8.8 Hz, 1H), 7.35 (d, J=2.0 Hz, 1H), 6.82 (d, J=8.0 Hz, 1H), 6.53 (s, 1H), 5.29 (s, 2H), 4.20 (quart., J=7.3 Hz, 2H), 2.96 (s, 6H), 1.32 (t, J=7.1 Hz, 3H); MS: m/z 375.1 (M+H+).

reactant | 2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | NC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)CC)COC(C(C)(C)C)=O)C(N(C)C)=O | C27H32N6O3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-amino-5-[3-(2-ethyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2N(N=CC2)CC | C21H22N6O
